US07662958B2
To the suspension of 1-amino-4-hydroxyquinolin-2(1H)-one (1.033 g, 5.86 mmol) in methanol (58 mL) was added acetic acid (0.29 mL) and cyclopropylcarboxaldehyde (482 □L, 6.45 mmol) followed by the addition of sodium cyanoborohydride (744.6 mg, 11.85 mmol) at room temperature. The suspension was stirred at room temperature overnight and quenched with half saturated brine (100 mL) and sodium bicarbonate (425 mg, 5.06 mmol). The mixture was extracted with ethyl acetate (300 mL) and the organic layer was separated and washed with half saturated brine (2×50 mL) The combined aqueous layers were extracted with dichloromethane (2×100 mL). The combined organic solution was dried with magnesium sulfate, filtered and concentrated, to give (1-[(cyclopropylmethyl)amino]-4-hydroxyquinolin -2(1H)-one) which was used without any purification. 1H NMR (300 MHz, DMSO-d6) δ 0.09 (m, 2H) 0.40 (m, 2H) 0.95 (m, 1H) 2.70 (t, J=6.43 Hz, 2H) 5.91 (s, 1H) 6.10 (t, J=6.07 Hz, 1H) 7.21 (m, 1H) 7.62 (t, J=7.17 Hz, 1H) 7.87 (m, 2H) 11.42 (br s, 1H).

reactant | 1-amino-4-hydroxyquinolin-2(1H)-one | 5.86 mmol, 1.033 g | NN1C(C=C(C2=CC=CC=C12)O)=O | C9H8N2O2
reactant | cyclopropylcarboxaldehyde | 6.45 mmol | C1CC1C(C#N)O | C5H7NO
reactant | sodium cyanoborohydride | 11.85 mmol, 744.6 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 5.06 mmol, 425 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 58 mL | CO | CH4O
solvent | brine | 100 mL | [Cl-].[Na+].O
solvent | acetic acid | 0.29 mL | C(C)(=O)O | C2H4O2
product | 1-[(cyclopropylmethyl)amino]-4-hydroxyquinolin -2(1H)-one | C1(CC1)CNN1C(C=C(C2=CC=CC=C12)O)=O | C13H14N2O2
